US04935430
(a) 5-Amino-6-chloro-4-(4-cyanophenyl)aminopyrimidine
A solution of 5-amino-4,6-dichloropyrimidine (7.00 g, 42.7 mmol) and 4-aminobenzonitrile (5.04 g, 42.7 mmol) in n-butanol (130 ml) was heated at reflux for 16 hours. After cooling the mixture the solid which precipitated out was filtered off, and partitioned between dichloromethane (500 ml) and saturated aqueous sodium bicarbonate. The organic phase was dried (MgSO4) and concentrated under reduced pressure to give the title compound (6.31 g, 60%).

reactant | 5-amino-4,6-dichloropyrimidine | 42.7 mmol, 7.00 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | 4-aminobenzonitrile | 42.7 mmol, 5.04 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | n-butanol | 130 ml | C(CCC)O | C4H10O
product | 5-Amino-6-chloro-4-(4-cyanophenyl)aminopyrimidine | 6.31 g, 60% | NC=1C(=NC=NC1Cl)NC1=CC=C(C=C1)C#N | C11H8ClN5
